US05965553
Trans-7-chloro-5-(1-naphthyl)-1-(2,2-dimethyl-3-dimethylamino-propyl)-2-oxo-1,2,3,5-tetrahydro-4,1 -benzoxazepine-3-acetamide
Trans-7-chloro-5-(1 -naphthyl)-1 -(2,2-dimethyl-3-dimethylamino-propyl)-2-oxo-1,2,3,5-tetrahydro-4,1-benzoxazepine-3-acetic acid (1.16 g, 2.35 mmol) and 1,1'-carbonyldiimidazole (1.91 g, 11.8 mmol) were dissolved in dimethylformamide (75 ml). Stirring for 1 h at room temperature was followed by addition of ammonium bicarbonate (1.86 g, 23.5 mmol) in one portion to the reaction mixture, which was stirred for further 18 hours at room temperature. The solvent was concentrated under reduced pressure and the residue flash chromatographed directly (dichloromethane/methanol/aqueous ammonia 99:1:0.1 to 98:2:0.2). The solid was taken up in dichloromethane and a stoichiometric amount of 1N HCl in ether was added. Removal of the solvent provided a solid which was dissolved in ethanol and precipitated with ether to give the title compound (0.42 g, 36%) as a colorless solid.

reactant | Trans-7-chloro-5-(1 -naphthyl)-1 -(2,2-dimethyl-3-dimethylamino-propyl)-2-oxo-1,2,3,5-tetrahydro-4,1-benzoxazepine-3-acetic acid | 2.35 mmol, 1.16 g | ClC=1C=CC2=C([C@H](O[C@@H](C(N2CC(CN(C)C)(C)C)=O)CC(=O)O)C2=CC=CC3=CC=CC=C23)C1 | C28H31ClN2O4
reactant | 1,1'-carbonyldiimidazole | 11.8 mmol, 1.91 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | ammonium bicarbonate | 23.5 mmol, 1.86 g | C([O-])(O)=O.[NH4+]
solvent | dimethylformamide | 75 ml | CN(C=O)C | C3H7NO
solvent | ethanol | C(C)O | C2H6O
product | Trans-7-chloro-5-(1-naphthyl)-1-(2,2-dimethyl-3-dimethylamino-propyl)-2-oxo-1,2,3,5-tetrahydro-4,1 -benzoxazepine-3-acetamide | 0.42 g, 36% | ClC=1C=CC2=C([C@H](O[C@@H](C(N2CC(CN(C)C)(C)C)=O)CC(=O)N)C2=CC=CC3=CC=CC=C23)C1 | C28H32ClN3O3
